US09079880B2
Add to a solution of trans-3-(3-cyano-phenylcarbamoyl)-4-(3-methoxycarbonyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.20 g, 0.44 mmol) in MeOH (3 mL), sodium hydroxide as a 10% aqueous solution (0.40 mL, 1.00 mmol). Heat the mixture to 50° C. for 30 min then cool to room temperature and remove the MeOH under reduced pressure. Dilute the mixture with water and adjust the pH to approximately pH 5 by the addition of a 2 N solution of hydrochloric acid causing a solid to precipitate from solution. Collect the formed solid by filtration, wash with water and dry on the filter pad to provide 0.17 g of trans-3-(3-carboxy-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a powder.

reactant | trans-3-(3-cyano-phenylcarbamoyl)-4-(3-methoxycarbonyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CC(=CC=C1)C(=O)OC)C(NC1=CC(=CC=C1)C#N)=O | C25H27N3O5
solvent | MeOH | 3 mL | CO | CH4O
solvent | sodium hydroxide | [OH-].[Na+]
product | trans-3-(3-carboxy-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.17 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C(NC1=CC(=CC=C1)C#N)=O)C1=CC(=CC=C1)C(=O)O | C24H25N3O5
